US07906517B2
Tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-hydroxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (70 mg) is dissolved in N,N-dimethylformamide (3 ml) and thereto are added potassium carbonate (26.4 mg) and iodoethane (29.8 mg) and the mixture is stirred at 50° C. for 8 hours. Thereto are added ethyl acetate and a water, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=1:0→9:1) to give tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-ethoxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (60.5 mg). MS (m/z): 762 [M+H]+

reactant | Tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-hydroxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 70 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)O)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C38H41F6N3O5
reactant | potassium carbonate | 26.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 29.8 mg | ICC | C2H5I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-ethoxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 60.5 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)OCC)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C40H45F6N3O5
